US04336389
A mixture of 10.5 g (0.05 mole) of ethyl p-fluorobenzoylacetate, 6.7 g (0.05 mole) of sulfuryl chloride and 30 ml. of chloroform was held at reflux for 18 hours and cooled. The chloroform solution was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 10.8 g (88%) of ethyl 2-chloro-(p-fluoro)-benzoylacetate as an oil. A mixture of 10.8 g (0.0441 mole) of ethyl 2-chloro-(p-fluoro)benzoylacetate, 3.36 g (0.0441 mole) of thiourea, 20 ml. of water and 10 ml. of ethanol was held at reflux for 3 hours. Ethanol was removed under reduced pressure. The residue was made basic with saturated sodium bicarbonate. The solid was filtered, washed with water and recrystallized from ethanol to give 8.9 g (76%) of ethyl 2-amino-4-(p-fluorophenyl)-5-thiazolecarboxylate as white prisms, m.p. 205°-208° C. To 4.0 g (0.015 mole) of ethyl 2-amino-4-(p-fluorophenyl)-5-thiazolecarboxylate was added 30 ml. of concentrated hydrochloric acid and 30 ml. of glacial acetic acid. The carboxylate did not dissolve completely. To this mixture was added 30 ml. of chloroform. The carboxylate dissolved gradually into the chloroform solution. the reaction mixture was cooled to 0°-5° C. with an ice bath. To the above mixture was added with vigorous stirring 4.0 g (0.058 mole) of sodium nitrite. The reaction mixture was stirred at 5°-10° C. for 30 minutes and poured into a solution of 1.48 g (0.0150 mole) of cuprous chloride in 20 ml. of concentrated hydrochloric acid. After the gas evolution subsided, the reaction mixture was diluted with water. The chloroform layer was separated and the aqueous layer was extracted with chloroform. The combined chloroform solution was washed with water followed by saturated sodium bicarbonate, dried (MgSO4) and concentrated under reduced pressure. The residual solid was recrystallized from ethanol to give 3.3 g (77%) of ethyl 2-chloro-4-(p-fluorophenyl)-5-thiazolecarboxylate as orange needles, m.p. 113°-114° C.

reactant | ethyl 2-amino-4-(p-fluorophenyl)-5-thiazolecarboxylate | 0.015 mole, 4.0 g | NC=1SC(=C(N1)C1=CC=C(C=C1)F)C(=O)OCC | C12H11FN2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.058 mole, 4.0 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-chloro-4-(p-fluorophenyl)-5-thiazolecarboxylate | 3.3 g, 77% | ClC=1SC(=C(N1)C1=CC=C(C=C1)F)C(=O)OCC | C12H9ClFNO2S
